US06380218B1
4-(1-Hydroxy-prop-2-ynyl)-benzonitrile
To a solution of 4-Formyl-benzonitrile (1.5 grams, 10.0 mmole) in tetrahydrofuran (20 ml) at −78° C. was added 0.5 M ethynyl magnesium bromide (26 ml, 13.0 mmole) dropwise. The mixture was stirred at −78° C. for 30 minutes and allowed to warm to room temperature over one hour. The reaction was cooled to 0° C., quenched with 10 ml methanol, poured into 200 ml water, acidified with oxalic acid and extracted with diethyl ether. The combined extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated to give an oil which was purified via flash chromatography on silica using 30% ethyl acetate/hexane as eluent to give a solid. (1.6 g). MW 157.18; MS (m/e) 157 (M+).

reactant | 4-Formyl-benzonitrile | 10.0 mmole, 1.5 grams | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | ethynyl magnesium bromide | 13.0 mmole, 0.5 M, 26 ml | C(#C)[Mg]Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(1-Hydroxy-prop-2-ynyl)-benzonitrile | OC(C#C)C1=CC=C(C#N)C=C1 | C10H7NO
